US05710342
The autoclave described above was charged with 17 g of ME containing 1-octene as compound to be oxidized and having the following composition (in % by weight including catalyst): 54% of 1-octene, 7.7% of Igepal, 1.9% of Triton 100, 19.2% of n-propanol, 10.7% of water and 0.8% of PdCl2 /5.7% of Fe(NO3)3 as catalyst. The oxidation was carried out for 6 hours at 50° C. and 1 bar using pure oxygen. Methyl hexyl ketone was obtained as product. The selectivity was 54% at a conversion of 14%.

reactant | 1-octene | C=CCCCCCC | C8H16
reactant | oxygen | O=O | O2
catalyst | 1-octene | C=CCCCCCC | C8H16
catalyst | n-propanol | C(CC)O | C3H8O
catalyst | water | O | H2O
catalyst | PdCl2 | Cl[Pd]Cl
product | Methyl hexyl ketone | C(CCCCC)C(=O)C | C8H16O
